US07915443B2
(S)-5-[(6-chloropyridin-3-yl)ethynyl]-N-[methyl(oxo)phenyl-λ6-sulfanylidene]nicotinamide
In a manner similar to that described in Example 443, (S)-N-[methyl(oxo)phenyl-λ6-sulfanylidene]-5-[(trimethylsilyl)ethynyl]nicotinamide (250 mg, 0.70 mmol) and 2-chloro-5-iodopyridine (173 mg, 0.70 mmol) were reacted to give the title compound as white solid (250 mg).

reactant | (S)-N-[methyl(oxo)phenyl-λ6-sulfanylidene]-5-[(trimethylsilyl)ethynyl]nicotinamide | 0.70 mmol, 250 mg | C[S@@](=NC(C1=CN=CC(=C1)C#C[Si](C)(C)C)=O)(C1=CC=CC=C1)=O | C18H20N2O2SSi
reactant | 2-chloro-5-iodopyridine | 0.70 mmol, 173 mg | ClC1=NC=C(C=C1)I | C5H3ClIN
product | (S)-5-[(6-chloropyridin-3-yl)ethynyl]-N-[methyl(oxo)phenyl-λ6-sulfanylidene]nicotinamide | 250 mg | ClC1=CC=C(C=N1)C#CC=1C=NC=C(C(=O)N=[S@](C2=CC=CC=C2)(=O)C)C1 | C20H14ClN3O2S
